US07772269B2
Step 3: Preparation of 5-(4-bromophenyl)-1-methyl-1H-pyrazole
A N,N′-dimethylformamide (15 mL) solution of 4-bromoacetophenone (10.60 g, 53.25 mmols) and N,N′-dimethylformamide dimethyl acetal (2.5 equivalents) was heated at 125 degrees Celcius for 3 hours. The dark red solution was cooled to room temperature. The volatiles were removed by rotary evaporation providing a red viscous oil. To this substance was added anhydrous N,N′-dimethylformamide (15 mL) and methyl hydrazine (7.6 g, 160 mmols, 3 equivalents). The mixture was stirred at room temperature for 1 hour and then heated at 75 degrees Celcius for 4 hours. The volatiles were removed by rotary evaporation and the crude residue was taken up in a small volume of methylene chloride. This red solution was applied to a cartridge of silica gel. The cartridge was eluted with a 20:80 mixture of ethyl acetate and hexanes, respectively. The appropriate fractions were combined and concentrated to produce 12.5 g of a white solid.

reactant | 4-bromoacetophenone | 53.25 mmols, 10.60 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | methyl hydrazine | 160 mmols, 7.6 g, 3 equivalents | CNN | CH6N2
reactant | N,N′-dimethylformamide | 15 mL | CN(C)C=O | C3H7NO
reactant | N,N′-dimethylformamide | 15 mL | CN(C)C=O | C3H7NO
product | 5-(4-bromophenyl)-1-methyl-1H-pyrazole | 12.5 g | BrC1=CC=C(C=C1)C1=CC=NN1C | C10H9BrN2
